US06194450B1
(e) Preparation of 2-hydroxy-4-methyloxycarbonylbenzyltriphenylphosphonium bromide
A suspension of triphenylphosphine hydrobromide (11.9 g, 34.7 mmol) and methyl 3-hydroxy-4-hydroxymethylbenzoate (6 g, 35 mmol) in acetonitrile (65 ml, was heated at reflux for 1.5 h. The solvent was removed on a rotary evaporator under vacuum and the resulting solid was diluted in ethyl ether (30 ml). The product was isolated by filtration. Its properties were as follows:

reactant | triphenylphosphine hydrobromide | 34.7 mmol, 11.9 g | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 3-hydroxy-4-hydroxymethylbenzoate | 35 mmol, 6 g | OC=1C=C(C(=O)OC)C=CC1CO | C9H10O4
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-hydroxy-4-methyloxycarbonylbenzyltriphenylphosphonium bromide | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)C(=O)OC | InChI=1S/C27H23O3P.BrH/c1-30-27(29)21-17-18-22(26(28)19-21)20-31(23-11-5-2-6-12-23,24-13-7-3-8-14-24)25-15-9-4-10-16-25;/h2-19H,20H2,1H3;1H
